US04114630
2,6,10,10-Tetramethyl-1-oxa-spiro[4.5]dec-6-yl formate
0.4 g (0.002 M) of 2,6,10,10-tetramethyl-1-oxa-spiro[4.5]decan-6-ol -- isomer A; see Example 1 -- were intimately mixed with 0.5 g (0.005 M) of freshly sublimated formylimidazole and then kept for 2 days at room temperature. The reaction mixture was then extracted with ether and the organic layer washed, dried, evaporated and finally subjected to a fractional distillation to give 0.3 g of a product having b.p. 70°-80°/0.5 Torr and containing 60% of the desired ester. An analytical sample was purified by vapour phase chromatography.

reactant | 2,6,10,10-tetramethyl-1-oxa-spiro[4.5]decan-6-ol | 0.002 M, 0.4 g | CC1OC2(CC1)C(CCCC2(C)C)(O)C | C13H24O2
reactant | formylimidazole | C(=O)C=1NC=CN1 | C4H4N2O
product | 2,6,10,10-Tetramethyl-1-oxa-spiro[4.5]dec-6-yl formate | 0.3 g | C(=O)OC1(C2(CCC(O2)C)C(CCC1)(C)C)C | C14H24O3
